US07323604B2
(Z)-3-butylcyclohept-2-enone:
To a solution of (Z)-1-butylcyclohept-2-enol (2 g, 11.9 mmol) dissolved in dichloromethane (60 mL) was pyridine chlorochromate on basic alumina (20 wt. %, 25.7 g, 23.8 mmol). The resulting reddish solution was stirred at room temperature for 2 h until determined to be complete by TLC. The mixture was diluted in 100 mL diethyl ether and stirred for 1 h after which it was poured over filter paper that was subsequently washed with the ether. The filtrate was partially concentrated (30 mL) and passed through a Florisil column with ether (100 mL). The resulting colorless solution was concentrated and purified by flash chromatography (5% Et2O/Pentane) to provide a colorless oil (920 mg, 47% yield). IR (film) 3477, 2933, 2864, 1662, 1458, 1421, 1375, 1344, 1322, 1267, 1201, 1124, 1103, 1048, 937, 875, 855 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.89 (s, 1H, COCH), 2.58-2.53 (m, 2H, COCH2), 2.41-2.38 (m, 2H, HC═CCH2), 2.18 (t, 2H, J=6.91 Hz, HC═CCH2(CH2)2CH3), 1.80-1.74 (m, 2H, COCH2CH2), 1.50-1.40 (m, 2H, HC═CCH2CH2), 1.38-1.25 (m, 2H, HC═C(CH2)2CH2CH3), 0.90 (t, 3H, J=7.18 Hz, CH2CH3); 13C NMR (75 MHz, CDCl3) δ 204.4, 162.4, 128.2, 42.1, 40.8, 32.5, 29.7, 25.1, 22.4, 21.2, 13.9; HRMS (EI+) exact mass calculated for [M]+ (C11H18O) requires m/z 166.1358, found m/z 166.1359.

reactant | (Z)-1-butylcyclohept-2-enol | 11.9 mmol, 2 g | C(CCC)C1(\C=C/CCCC1)O | C11H20O
reactant | pyridine chlorochromate | [Cr](=O)(=O)(O)Cl.N1=CC=CC=C1
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | (Z)-3-butylcyclohept-2-enone | 920 mg, 47% yield | C(CCC)/C/1=C/C(CCCC1)=O | C11H18O
